Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
vertigo, slurred speech
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old woman with a past medical history
of HTN, left ACA aneurysm monitored with CTA yearly, vertigo ___
? left inner ear blockage, Raynaud's, IBS, who presented as a
transfer from ___ s/p tPA for acute onset vertigo 
between
___ AM. 
Patient reports that she woke up in her usual state of health,
took a shower and was getting dressed, and as she bent down to
put on her pantyhose she suddenly felt the onset of room 
spinning
vertigo around 9:45 AM. She called her son, who felt her speech
sounded slurred, and called the ambulance. Her niece at bedside
tells me that she was "not able to move" but we clarified with
her son who was present when EMS arrived that ___ felt weak 
and
ill, and was able to move her arms and legs but felt too weak 
and
vertiginous to stand to get on the stretcher and had to be
carried. The symptoms persisted, and she continues to feel room
spinning when she opens her eyes. This is worsened by movement 
of
her head. She also has developed a severe headache, and she is
sensitive to light.  
Initial exam notable for difficulty maintaining eye opening,
dysarthria, and slight right facial droop with slightly 
decreased
activation. On repeat exam the right NLFF was much less
prominent, with symmetric activation. CTH at ___
reportedly did not show acute hemorrhage. CTA/CTP at ___ 
showed
right vertebral artery stenosis. 
 
On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. Denies difficulty with gait.
 
On general review of systems, the patient denies recent illness,
sick contacts. Denies recent fever or chills.  Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain. 

 
Past Medical History:
HTN (taken off BP meds by PCP per patient)
IBS
Raynaud's
?chronic carotid, ACA aneurysm, monitored yearly with vessel
imaging
left inner ear blockage 80% per patient, diagnosis she has had
since ___ from her ENT
 
 
Social History:
___
Family History:
not obtained, code stroke
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T: 97.9 HR 90 BP: 129/85 RR 18 SaO2 99% RA 
General: Awake, eyes closed, uncomfortable appearing
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pain with head turn to the side. 
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:  
-Mental Status: Alert, oriented. She speaks only short sentences
in answer to questions. Fatigued, uncomfortable with effort.
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Pt. was able to
name both high and low frequency objects. Able to read without
difficulty. Correctly describes stroke card. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.  

CN  
I: not tested  
II,III: VFF to confrontation
III,IV,VI: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT and pinprick  
VII: Initial exam right NLFF with slightly decreased activation,
on repeat exam symmetric activation. Symmetric forehead 
wrinkling

VIII: hears conversation bilaterally 
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline with good excursions. Her speech 
is
hoarse, some words seem slightly slurred.  

Negative ___. No nystagmus. No skew deviation. No
corrective saccade. 

Motor: Normal bulk and tone, no rigidity; no asterixis or
myoclonus. No pronator drift.  
  Delt Bi Tri WE FE Grip  IO  
  C5   C6 C7  C6 C7 C8/T1 T1  
L 5    ___  5  5     5
R 5    ___  5  5     5
 
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L 5  5     5    ___ 
R 5  5     5    ___

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   3   ___ Flexor  
R ___   3   ___ Flexor 
+ Pec jerks bilaterally, crossed adductors bilaterally, no 
clonus
bilaterally, no ___ bilaterally. 

-Sensory: No deficits to light touch and pinprick thorughout. No
extinction to DSS. 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF bilaterally.  

-Gait: deferred, sitting up made patient more vertiginous

DISCHARGE PHYSICAL EXAM
=======================
Vitals: afebrile, BP ___ HR ___ 98% RA
General: no distress, comfortable
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Normal work of breathing
Cardiac: RRR
Abdomen: soft, non-distended
Extremities: No ___ edema
Skin: no rashes or lesions noted.
 
Neurologic:  
-Mental Status: Alert, oriented. Able to recount history without
difficulty. Language fluent with intact comprehension,
repetition. Follows simple commands. No apraxia or neglect.

CN  
II,III: VFF to confrontation
III,IV,VI: EOMI, no ptosis. No nystagmus  
V: diminished sensation to cold V1 (R>L), otherwise sensation to
light touch intact and symmetric throughout
VII: smile symmetric, slight R NLFF
VIII: intact to finger rub bilaterally
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline with good excursions.

Motor: Full strength throughout. Normal bulk and tone. No 

Reflex: No clonus  
  Bi Tri Bra Pat An Plantar  
  C5 C7  C6  L4  S1 CST  
L ___   3   ___ Flexor  
R ___   3   ___ Flexor 

-Sensory: No deficits to light touch thorughout. No extinction 
to
DSS. 
 
-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF bilaterally.  

-Gait: deferred
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:31PM BLOOD Neuts-91.5* Lymphs-4.1* Monos-3.5* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-9.54* AbsLymp-0.43* 
AbsMono-0.36 AbsEos-0.01* AbsBaso-0.03
___ 12:31PM BLOOD WBC-10.4* RBC-3.87* Hgb-12.0 Hct-35.1 
MCV-91 MCH-31.0 MCHC-34.2 RDW-12.0 RDWSD-40.1 Plt ___
___ 12:31PM BLOOD Plt ___
___ 12:31PM BLOOD ___ PTT-23.2* ___
___ 12:31PM BLOOD Glucose-116* UreaN-17 Creat-0.9 Na-134* 
K-4.3 Cl-98 HCO3-23 AnGap-13
___ 12:31PM BLOOD ALT-11 AST-21 AlkPhos-74 TotBili-0.3
___ 12:31PM BLOOD Lipase-21
___ 12:31PM BLOOD cTropnT-<0.01
___ 12:31PM BLOOD Albumin-4.1
___ 12:31PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
==============
___ 07:05AM BLOOD WBC-6.6 RBC-3.81* Hgb-11.8 Hct-34.4 
MCV-90 MCH-31.0 MCHC-34.3 RDW-12.2 RDWSD-40.3 Plt ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-93 UreaN-10 Creat-1.0 Na-141 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 07:05AM BLOOD Calcium-9.2 Phos-3.9 Mg-1.9 Cholest-209*
___ 07:05AM BLOOD %HbA1c-4.9 eAG-94
___ 07:05AM BLOOD Triglyc-90 HDL-70 CHOL/HD-3.0 LDLcalc-121
___ 07:05AM BLOOD TSH-3.4

IMAGING
=======
CTA HEAD AND CTA NECK Study Date of ___  
IMPRESSION:
Unremarkable head and neck CTA. 

MR HEAD W/O CONTRAST Study Date of ___  
IMPRESSION:
No acute intracranial abnormality.  No evidence of infarction. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history of 
HTN, left carotid aneurysm (per patient, 2 mm, on ASA 325 daily, 
diagnosed ___, left ACA aneurism (per history, denied by 
patient), vertigo of unclear etiology, left ear hearing
loss (80% reduction, "blockage" per patient, diagnosed by ENT 
___, Raynaud's, IBS, who presented as a transfer from ___ 
___ s/p tPA for acute onset positional vertigo and 
dysarthria. Initial NIHSS 2 (dysarthria, facial palsy), 24 hour 
post-tPA NIHSS 0. CTA and MRI with no evidence of infarct, 
hemorrhage, or aneurism (including carotid, ACA vessels). 
Etiology of presentation most suspicious for vertigo induced by 
rapid positional change, possibly predisposed by baseline inner 
ear issues. However, her presenting dysarthria would not be 
explained by vertigo, thus TIA remains possibility. Changed ASA 
325 mg daily to 81 daily given no evidence of aneurism. At time 
of discharge, neuro exam unremarkable and vertigo was resolved.

TRANSITIONAL ISSUES
===================
[] changed ASA 325 to 81 mg daily
[] no evidence of cerebral aneurism on CTA imaging despite 
patient's reported history, records should be updated
[] f/u lipid panel
[] please follow-up with ENT to further evaluate left hearing 
loss (history in military, loud noise exposure, consider 
audiogram)
[] discharged with vestibular ___ script

=================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) pneumoboots only, no SQ 
heparin, <24H post tPA
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (s) No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.) <24H post tPA
4. LDL documented? () Yes (LDL = ) - (x) No pending at 
discharge, listed as transitional issue, low suspicion for 
stroke in this patient, presumed vertigo
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [x ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? () Yes - (x) No low suspicion stroke, none on imaging
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? (I.e. patient at baseline 
functional status) at baseline functional status
9. Discharged on statin therapy? () Yes - (x) No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ x] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. NIFEdipine (Extended Release) 30 mg PO DAILY 
3. Linzess (linaCLOtide) 145 mcg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Linzess (linaCLOtide) 145 mcg oral DAILY  
3.  NIFEdipine (Extended Release) 30 mg PO DAILY  
4.Outpatient Physical Therapy
outpatient vestibular ___
ICD 10 H81.399 is 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertigo
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of room spinning, 
difficulty talking that was concerning for stroke, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. At an outside hospital, a medication 
called "tPA" was given to you due to concern for stroke. We 
performed imaging of your brain and determined that you did NOT 
have a stroke. We think your symptoms are explained by vertigo, 
a condition where you often have the sensation of room spinning, 
which may be caused by issues with your ear. 

We are changing your medications as follows:  
 1) reducing aspirin 325 mg daily to 81 mg daily

Please take your other medications as prescribed.  
Please follow up your doctors as listed below.
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911).  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___